US06069156
Methyl 2-isobutyl-3-isobutyrylindole-6-carboxylate (246 mg) was prepared from methyl 2-isobutylindole-6-carboxylate (300 mg) and isobutyryl chloride (0.41 ml) in a similar manner to that of Preparation 1 (5).

reactant | methyl 2-isobutylindole-6-carboxylate | 300 mg | C(C(C)C)C=1NC2=CC(=CC=C2C1)C(=O)OC | C14H17NO2
reactant | isobutyryl chloride | 0.41 ml | C(C(C)C)(=O)Cl | C4H7ClO
product | Methyl 2-isobutyl-3-isobutyrylindole-6-carboxylate | 246 mg | C(C(C)C)C=1NC2=CC(=CC=C2C1C(C(C)C)=O)C(=O)OC | C18H23NO3
